US05153210
6-[4-[2-[(4-Benzyloxy-β-hydroxyphenethyl)amino]-propyloxy]phenyl]-4,5-dihydro-3(2H)pyridazinone was prepared from 4,5-dihydro-6-(4-acetonyloxyphenyl)-3(2H)-pyridazinone and 2-hydroxy-2-(4-benzyloxyphenyl)ethanamine in an analogous manner to the compound described in Example 38. 1H NMR (DMSO-d6) ppm:

reactant | 4,5-dihydro-6-(4-acetonyloxyphenyl)-3(2H)-pyridazinone | C(C(=O)C)OC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N2O3
reactant | 2-hydroxy-2-(4-benzyloxyphenyl)ethanamine | OC(CN)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H17NO2
product | 6-[4-[2-[(4-Benzyloxy-β-hydroxyphenethyl)amino]-propyloxy]phenyl]-4,5-dihydro-3(2H)pyridazinone | C(C1=CC=CC=C1)OC1=CC=C(C(CNC(COC2=CC=C(C=C2)C=2CCC(NN2)=O)C)O)C=C1 | C28H31N3O4
